US07855227B2
Step C [2-[3-(3-Fluoro-benzyloxy)-phenyl]-ethyl]-carbamic acid tert-butyl ester
2.87 g (19.8 mmol) of 1-chloromethyl-3-fluoro-benzene in 5 ml of dry dimethylformamide were added to a suspension of 4.66 g (19.6 mmol) of [2-(3-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester, 4 g of K2CO3 and 0.3 g of potassium iodide in 50 ml of dry dimethylformamide. The reaction was first stirred at room temperature overnight, then was heated up to 50° C. for 6 hours. After evaporation of the solvent, water was added to the residue and the product was extracted with ethyl acetate. 7 g of crude oil were obtained. Purification by flash chromatography using a mixture of ethyl acetate/hexane (1:9→2:8 gradient) gave 5.9 g (86% yield) of the title product as a colourless oil.

reactant | 1-chloromethyl-3-fluoro-benzene | 19.8 mmol, 2.87 g | ClCC1=CC(=CC=C1)F | C7H6ClF
reactant | [2-(3-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 19.6 mmol, 4.66 g | C(C)(C)(C)OC(NCCC1=CC(=CC=C1)O)=O | C13H19NO3
reactant | K2CO3 | 4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | [2-[3-(3-Fluoro-benzyloxy)-phenyl]-ethyl]-carbamic acid tert-butyl ester | 5.9 g, 86% yield | C(C)(C)(C)OC(NCCC1=CC(=CC=C1)OCC1=CC(=CC=C1)F)=O | C20H24FNO3
